US04120962
c. ethyl 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate
Still further, a mixture of 6,7-dimethoxy-2-aminoquinoline-3-carboxamide (0.5 g., 2 millimoles), ethyl cyanoformate (0.43 g., 44 millimiles) and benzene (30 ml.) is refluxed for three days. The mixture is then cooled, filtered and the solid extracted with chloroform. Concentration of the chloroform extract affords the product which is recrystallized from chloroform.

reactant | 6,7-dimethoxy-2-aminoquinoline-3-carboxamide | 2 millimoles, 0.5 g | COC=1C=C2C=C(C(=NC2=CC1OC)N)C(=O)N | C12H13N3O3
reactant | ethyl cyanoformate | 0.43 g | C(#N)C(=O)OCC | C4H5NO2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | ethyl 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate | COC=1C=C2C=C3C(=NC2=CC1OC)N=C(NC3=O)C(=O)OCC | C16H15N3O5
